US04217357
A mixture consisting of 3-(imidazol-1-ylmethyl)indole (0.97 g) and 1-acetylimidazole (1.10 g) was heated on a steam bath for a period of 3.5 hours to give an orange oil, which soon solidied on cooling. The resulting solid product was then chromatographed on silica gel. Elution with chloroform first gave some minor impurity, followed by the pure product. The product-containing fractions were then combined and subsequently evaporated to dryness while under reduced pressure to afford a solid residue, which was thereafter crystallized from ethyl acetate to yield pure 1-acetyl-3-(imidazol-1-ylmethyl)indole (yield, 0.50 g.), m.p. 122° C.

reactant | 3-(imidazol-1-ylmethyl)indole | 0.97 g | N1(C=NC=C1)CC1=CNC2=CC=CC=C12 | C12H11N3
reactant | 1-acetylimidazole | 1.10 g | C(C)(=O)N1C=NC=C1 | C5H6N2O
product | 1-acetyl-3-(imidazol-1-ylmethyl)indole | 0.50 g | C(C)(=O)N1C=C(C2=CC=CC=C12)CN1C=NC=C1 | C14H13N3O
